US08420655B2
To a solution of 2-((E)-3-dimethylamino-acryloyl)-benzoic acid methyl ester (1.295 mg, 5.552 mmol) in methanol (21 mL) is added hydroxylamine hydrochloride (964.5 mg, 13.88 mmol). The reaction mixture is heated to reflux for 1.5 hours. After this time, the reaction mixture is loaded onto silica gel and purified using silica gel flash column chromatography with 1-10% MeOH in CH2Cl2 as the eluent to give 2-isoxazol-5-yl-benzoic acid methyl ester (587 mg, 52%).

reactant | 2-((E)-3-dimethylamino-acryloyl)-benzoic acid methyl ester | 5.552 mmol, 1.295 mg | COC(C1=C(C=CC=C1)C(\C=C\N(C)C)=O)=O | C13H15NO3
reactant | hydroxylamine hydrochloride | 13.88 mmol, 964.5 mg | Cl.NO
solvent | methanol | 21 mL | CO | CH4O
product | 2-isoxazol-5-yl-benzoic acid methyl ester | 587 mg, 52% | COC(C1=C(C=CC=C1)C1=CC=NO1)=O | C11H9NO3
